US08685986B2
N-(Biphenyl-4-ylmethyl)pyridin-3-ylsulfonamide
Reaction was carried out in the same manner as in Reference Example 2-(d) except for using 3-pyridylsulfonyl chloride (890 mg, 5.01 mmol), and using (biphenyl-4-ylmethyl)amine (1.01 g, 5.51 mmol) in place of (6-phenylpyridazin-3-ylmethyl)amine hydrochloride. After completion of the reaction, water was added to the reaction solution, followed by extraction with ethyl acetate. The separated organic layer was washed with a saturated aqueous sodium chloride solution, dried over anhydrous sodium sulfate, and then concentrated under reduced pressure. The resulting residue was subjected to silica gel column chromatography (eluent; hexane:ethyl acetate=1:1 (V/V)→chloroform:ethyl acetate=1:1 (V/V)→ethyl acetate), and fractions containing the desired compound were concentrated under reduced pressure. To the resulting crude product were added methylene chloride (5 ml) and diisopropyl ether (10 ml), followed by being left for 1 hour. A precipitated solid was collected by filtration, and dried under reduced pressure at 35° C. to afford the title compound (1.49 g) as a white solid. (Yield: 92%)

reactant | 3-pyridylsulfonyl chloride | 5.01 mmol, 890 mg | N1=CC(=CC=C1)S(=O)(=O)Cl | C5H4ClNO2S
reactant | (biphenyl-4-ylmethyl)amine | 5.51 mmol, 1.01 g | C1(=CC=C(C=C1)CN)C1=CC=CC=C1 | C13H13N
solvent | water | O | H2O
product | N-(Biphenyl-4-ylmethyl)pyridin-3-ylsulfonamide | 1.49 g, Yield: 92% | C1(=CC=C(C=C1)CNS(=O)(=O)C=1C=NC=CC1)C1=CC=CC=C1 | C18H16N2O2S
